US04503073
7-(4-Fluorobenzoyl)indolin-2-one
A mixture of 40.0 g (0.133 mole) of 7-(4-fluorobenzoyl)-3-methylthioindolin-2-one and 40.0 g (0.34 mole) of tin powder in one liter of 95% ethanol was heated to reflux and 100 ml of concentrated hydrochloric acid was added. The mixture was heated for 6 hrs, then filtered while hot. The filtrate was cooled and the precipitate was collected and recrystallized from isopropyl alcohol to yield 24.5 g (72%) as off-white needles, m.p. 185°-187.0° C.

reactant | 7-(4-fluorobenzoyl)-3-methylthioindolin-2-one | 0.133 mole, 40.0 g | FC1=CC=C(C(=O)C=2C=CC=C3C(C(NC23)=O)SC)C=C1 | C16H12FNO2S
reactant | tin | 0.34 mole, 40.0 g | [Sn] | Sn
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ethanol | one liter | C(C)O | C2H6O
product | 7-(4-Fluorobenzoyl)indolin-2-one | FC1=CC=C(C(=O)C=2C=CC=C3CC(NC23)=O)C=C1 | C15H10FNO2
